US09216980B2
N-Ethyl-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide
A solution of 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester (152 mg, 0.380 mmol) in 2M ethylamine in THF (8.0 mL) was heated to 80° C. for 4 days in a sealed tube. The mixture was allowed to cool and concentrated in vacuo. The residue was redissolved in DMSO and purified by preparative HPLC [2-60% MeCN/water modified with 0.1% ammonium hydroxide] to afford a dark brown solid (74.9 mg, 48%). 1H NMR (DMSO-D6, 500 MHz): 9.19 (d, J=2.2 Hz, 1H), 8.99 (s, 1H), 8.97 (d, J=2.2 Hz, 1H), 8.91 (s, 1H), 8.72 (m, 1H), 8.24 (s, 1H), 7.81 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 3.47-3.33 (m, 2H), 2.38 (m, 4H), 1.53 (m, 4H), 1.42 (m, 2H), 1.18 (t, J=7.2 Hz, 3H). LCMS (Method E): RT=3.30 min, M+H+=414.

reactant | 3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxylic acid methyl ester | 0.380 mmol, 152 mg | COC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C24H24N4O2
reactant | ethylamine | 2M | C(C)N | C2H7N
solvent | THF | 8.0 mL | C1CCOC1 | C4H8O
product | N-Ethyl-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carboxamide | 74.9 mg, 48% | C(C)NC(=O)C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C25H27N5O
